US04609730
Trifluoroacetic acid (0.805 g) was added to a suspension of benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(2,2-difluorovinyl)-3-cephem-4-carboxylate-1-oxide (syn isomer) (0.3 g) in methylene chloride (0.6 ml) and anisole (0.382 g) under ice-cooling and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was dropwise added to diisopropylether (10 ml) and the precipitates were collected by filtration. The precipitates were added to a mixture of ethyl acetate and water and the mixture was adjusted to pH 7.0 with saturated aqueous sodium bicarbonate. The separated aqueous layer was acidified to pH 3.0 with 10% hydrochloric acid and the precipitates were collected by filtration to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(2,2-difluorovinyl)-3-cephem-4-carboxylic acid-1-oxide (syn isomer) (0.05 g).

reactant | Trifluoroacetic acid | 0.805 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzhydryl 7-[2-benzhydryloxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(2,2-difluorovinyl)-3-cephem-4-carboxylate-1-oxide | 0.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C=C(F)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C42H33F2N5O8S2
reactant | anisole | 0.382 g | C1(=CC=CC=C1)OC | C7H8O
reactant | diisopropylether | 10 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 0.6 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(2,2-difluorovinyl)-3-cephem-4-carboxylic acid-1-oxide | 0.05 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2=O)C=C(F)F)C(=O)O)C1=O)C=1N=C(SC1)N | C16H13F2N5O8S2
